US06339160B1
To a solution of furan-2-carboxylic acid (2.0 g, 17.8 mmols) and N-methylmorpholine (1.95 ml, 17.8 mmols) in anhydrous THF (10 ml), cooled at −15° C. was added dropwise under stirring an equivalent quantity of isobutylchloroformate (2.33 ml, 17.8 mmols). After 30 minutes a solution of L-leucine methylester hydrochloride (3.23 g, 17.8 mmol) and N-metylmorpholine (1.95 ml, 17.7 mmols in anhydrous THF (15 ml) was slowly added, maintaining the mixture under stirring at −15° C. for two hours. The reaction mixture was diluted with CH2Cl2 (100 ml) and washed with HCl 1N (30 ml×2), NaHCO3 saturated solution (30 ml×2), and NaCl saturated solution (30 ml). After drying the organic phase on Na2SO4 and removal of the solvent at a reduced pressure, the raw product was obtained as an oily residue which spontaneously solidified. By grinding the solid substance in petroleum ether, white crystals of either N-[(furan-2-yl) carbonyl]- L-leucine methylester were obtained: 3.32 g (80%); m.p. 88-90° C., [a] D22=−23° C. (1, methanol); IR (CHCl3): 3424, 2956, 1741, 1663, 1595, 1517, 1351, 1177 cm−1; 1H-NMR (CLCl3): d 0.95 and 1.02 [two s, 6, CH2CH(CH3)2], 1.45-2.00 [m, 3, CH2CH(CH3)2], 3.85 (s, 3, OCH3), 4.73-5.13 (m, 1, aCH), 6.39-7.45 [m, 3, furan aromatics and 6.89 (d, 1, NH, J=8 Hz)]. Calculated for C12H17NO4: C, 60.24; H 7.16; N 5.85. Found C 60.15; H 7.22; N 5.88%.

reactant | furan-2-carboxylic acid | 17.8 mmols, 2.0 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | N-methylmorpholine | 17.8 mmols, 1.95 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 17.8 mmols, 2.33 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | L-leucine methylester hydrochloride | 17.8 mmol, 3.23 g | Cl.COC([C@@H](N)CC(C)C)=O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[(furan-2-yl) carbonyl]- L-leucine methylester | COC([C@@H](NC(=O)C=1OC=CC1)CC(C)C)=O | C12H17NO4
